US04284829
3-Methoxy-α-methylstyrene Oxide
To a solution of dimethylsulfoxonium methylide (69.4 mmoles) in dimethyl sulfoxide (65 ml.) at room temperature is added solid 3-l -dimethoxyacetophenone (8.33 g., 55.5 mmoles). The reaction mixture is stirred for one hour at 25° C., for one-half hour at 50° C. and is then cooled. The mixture is diluted with water (50 ml.) and added to a mixture of ice water (200 ml.)--ether (250 ml.)--low boiling petroleum ether (25 ml.). The organic extract is washed twice with water (250 ml.), dried (MgSO4) and evaporated to an oil which is fractionally distilled.

reactant | dimethylsulfoxonium methylide | 69.4 mmoles | CS(=C)(=O)C | C3H8OS
reactant | dimethoxyacetophenone | 55.5 mmoles, 8.33 g | COC(C(=O)C1=CC=CC=C1)OC | C10H12O3
reactant | ether | 250 ml | CCOCC | C4H10O
solvent | dimethyl sulfoxide | 65 ml | CS(=O)C | C2H6OS
solvent | water | 50 ml | O | H2O
product | 3-Methoxy-α-methylstyrene Oxide | COC=1C=C(C2(CO2)C)C=CC1 | C10H12O2
